US04102917
A mixture of 21.1 g of 5-nitroisophthalic acid, 40.5 ml of 5N sodium hydroxide and 2.0 g of 10% palladium on carbon catalyst in 110 ml of water is hydrogenated at room temperature for 1 hour and then filtered through diatomaceous earth. To the solution of 5-aminoisophthalic acid disodium salt is added 9.2 g of sodium bicarbonate followed by 13.65 g of powdered 5-nitroisophthaloyl chloride (prepared as described in Example 1). The solution is cooled in a water bath and stirred vigorously in a baffle flask for 1 hour and 15 minutes. The mixture is filtered, the filtrate is concentrated to approximately 125 ml and 200 ml of ethanol is added to give a yellow precipitate. The mixture is filtered and the product is washed with 66% aqueous ethanol, ethanol and ether. The material is dried, then dissolved in 200 ml of water. The solution is filtered through diatomaceous earth and diluted slowly with stirring and warming with 300 ml of ethanol. The precipitate formed is collected and washed with 100 ml of 60% aqueous ethanol, 400 ml of ethanol and ether. The product is dried by conventional means to give 27.8 g of 5,5'-[5-nitro-1,3-phenylenebis(carbonylimino)]diisophthalic acid tetrasodium salt.

reactant | 5-nitroisophthalic acid | 21.1 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5NO6
reactant | sodium hydroxide | 5N, 40.5 ml | [OH-].[Na+]
reactant | water | 110 ml | O | H2O
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
product | 5,5'-[5-nitro-1,3-phenylenebis(carbonylimino)]diisophthalic acid tetrasodium salt | 27.8 g | [Na+].[Na+].[Na+].[Na+].[N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-])C(=O)NC=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-] | InChI=1S/C24H15N3O12.4Na/c28-19(25-16-4-12(21(30)31)2-13(5-16)22(32)33)10-1-11(9-18(8-10)27(38)39)20(29)26-17-6-14(23(34)35)3-15(7-17)24(36)37;;;;/h1-9H,(H,25,28)(H,26,29)(H,30,31)(H,32,33)(H,34,35)(H,36,37);;;;/q;4*+1/p-4
